US06689779B2
In 5 ml of dimethylformamide was dissolved 400 mg of 2-(5-tetrazolyl)-5-bromopyridine and the solution was reacted with 502 mg of iodomethane in the presence of 300 mg of potassium hydroxide at room temperature for 1 hour with stirring. After completion of the reaction, a post-treatment similar to that of Preparation Example 3 was conducted to obtain 110 mg of 2-(1-methyl-5-tetrazolyl)-5-bromopyridine (thin layer chromatography eluting with a mixture of 1:4 ethyl acetate:hexane, Rf: 0.3) and 220 mg of 2-(2-methyl-5-tetrazolyl)-5-bromopyridine (thin layer chromatography eluting with a mixture of 1:4 ethyl acetate:hexane, Rf: 0.5).

reactant | 2-(5-tetrazolyl)-5-bromopyridine | 400 mg | N1N=NN=C1C1=NC=C(C=C1)Br | C6H4BrN5
reactant | iodomethane | 502 mg | IC | CH3I
reactant | potassium hydroxide | 300 mg | [OH-].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(1-methyl-5-tetrazolyl)-5-bromopyridine | 110 mg | CN1N=NN=C1C1=NC=C(C=C1)Br | C7H6BrN5
